US06660744B1
The representative procedure for amide formation was used in the reaction of methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate (0.035 g, 0.067 mmol) with N,N-diethylethylenediamine (1 mL). Purification by preparative HPLC (25 to 100% acetonitrile in 0.1 M aqueous ammonium acetate over 20 min at 21 mL/min using an 8μ Hypersil HS C18, 250×21 mm column, Rt 7.12-7.98 min) afforded N1-[2-(diethylamino)ethyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide as an off-white solid (0.017 g, 0.028 mmol): 1H NMR (DMSO-d6, 400 MHz) δ 8.22 (s, 1H), 8.12 (br, 1H), 7.96 (d, 1H), 7.78 (d, 1H), 7.44 (t, 1H), 7.31 (m, 3H); 6.95 (br, 2H), 4.96 (s, 2H), 3.35 (m, 2H), 2.82 (m, 2H), 2.50 (m, 4H), 1.05 (t, 6H); MS: (M−H)− 607.

reactant | methyl 2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetate | 0.067 mmol, 0.035 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)CC(=O)OC | C20H15Cl2FN6O4S
reactant | N,N-diethylethylenediamine | 1 mL | C(C)N(CCN)CC | C6H16N2
product | N1-[2-(diethylamino)ethyl]-2-[4-amino-3-(4-{[(2,3-dichlorophenyl)sulfonyl]amino}-3-fluorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]acetamide | 0.028 mmol, 0.017 g | C(C)N(CCNC(CN1N=C(C=2C1=NC=NC2N)C2=CC(=C(C=C2)NS(=O)(=O)C2=C(C(=CC=C2)Cl)Cl)F)=O)CC | C25H27Cl2FN8O3S
